US09029560B2
Preparation of 1-[(4-methoxy-2-methyl-phenyl)carbamothioyl]-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (PC131)
The title compound was prepared as described in Example 63 using 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (CA18) and 1-(4-methoxy-2-methylphenyl)thiourea. Sodium acetate was used in place of sodium bicarbonate. The title compound was isolated as a white solid (0.103 g, 31%): 1H NMR (400 MHz, DMSO-d6) δ 11.80 (s, 1H), 10.00 (s, 1H), 9.40 (s, 1H), 8.13-8.04 (m, 2H), 8.02-7.92 (m, 2H), 7.67-7.57 (m, 2H), 7.46 (t, J=7.6 Hz, 1H), 7.42-7.30 (m, 2H), 7.08 (t, J=5.6 Hz, 1H), 6.83 (d, J=2.9 Hz, 1H), 6.76 (dd, J=8.7, 2.9 Hz, 1H), 3.74 (s, 3H), 3.17 (q, J=6.5 Hz, 2H), 2.73 (t, J=7.6 Hz, 2H), 2.16 (s, 3H), 1.93-1.72 (m, 2H); 19F NMR (376 MHz, DMSO-d6) δ −56.97; ESIMS m/z 585 ([M+H]+), 583 ([M−H]−).

reactant | 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C=1C=C(C=CC1)CCCN)(F)F | C18H17F3N4O
reactant | 1-(4-methoxy-2-methylphenyl)thiourea | COC1=CC(=C(C=C1)NC(=S)N)C | C9H12N2OS
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-[(4-methoxy-2-methyl-phenyl)carbamothioyl]-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | COC1=CC(=C(C=C1)NC(=S)NC(=O)NCCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C28H27F3N6O3S
